US04772600
2-(4-Bromophenyl)-N-[2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:1]
2-(4-Bromophenyl)-N-[2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide (3.5 g, 0.0079 mole) was converted to the hydrochloride salt in isopropyl alcohol-isopropyl ether, using concentrated hydrochloric acid to acidify. Recrystallization from isopropyl alcohol-isopropyl ether gave 3.5 g (83%) of a white solid, mp 150°-153° C.

reactant | 2-(4-Bromophenyl)-N-[2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.0079 mole, 3.5 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN1CCCCC1 | C21H24BrN5O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol isopropyl ether | C(C)(C)O.C(C)(C)OC(C)C
product | 2-(4-Bromophenyl)-N-[2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | 3.5 g, 83% | O.Cl.BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN1CCCCC1 | InChI=1S/C21H24BrN5O.ClH.H2O/c22-17-8-6-16(7-9-17)20-25-18-5-4-10-24-21(18)27(20)15-19(28)23-11-14-26-12-2-1-3-13-26;;/h4-10H,1-3,11-15H2,(H,23,28);1H;1H2
